US05616586
9-Bromo-5-benzylcarbamoyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 5 was carried out with 9-bromo-5-carboxy-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (300 mg, 0.92 mmol) and benzylamine (107 mg, 1.0 mmol) to give 310 mg of the title compound (81%): mp>250° C.; 1H NMR (270 MHz, DMSO-d6) δ12.12 (s, 1H), 8.68 (t, 1H, J=6.1 Hz), 7.12~7.31 (m, 7H), 5.13~5.19 (m, 1H), 4.26 (d, 2H, J=6.1 Hz), 2.78 (dm, 1H, J=16.8 Hz), 2.39~2.61 (m, 2H), 1.85~2.00 (m, 1H).

reactant | 9-bromo-5-carboxy-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.92 mmol, 300 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)C(=O)O | C12H9BrN2O4
reactant | benzylamine | 1.0 mmol, 107 mg | C(C1=CC=CC=C1)N | C7H9N
product | 9-Bromo-5-benzylcarbamoyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 310 mg, 81% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)C(NCC2=CC=CC=C2)=O | C19H16BrN3O3
